US07851473B2
(2) N-(3-Methylisoxazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (3-methylisoxazol-5-yl)carbamate (302 mg, 1.11 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (300 mg, 1.33 mmol) and diisopropylethylamine (0.212 ml, 1.33 mmol) in dimethyl sulfoxide (3.7 ml) was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 167 mg (40.6%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (3-methylisoxazol-5-yl)carbamate | 1.11 mmol, 302 mg | CC1=NOC(=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H7Cl3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.33 mmol, 300 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 1.33 mmol, 0.212 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 3.7 ml | CS(=O)C | C2H6OS
product | N-(3-Methylisoxazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 167 mg, 40.6% | CC1=NOC(=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C17H18N6O2S
